data/mechanisms/records/IMS8-EQ8.37a.json
{"mechanism_id": "IMS8-EQ8.37a", "species": [{"species_id": "n_butane_radical_cation", "mapped_smiles": "[CH3:1][CH2:2][CH2:3][CH3:4]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "ethyl_radical", "mapped_smiles": "[CH3:1][CH2:2]", "role": "neutral_radical", "charge": 0, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "ethyl_cation", "mapped_smiles": "[CH2+:3][CH3:4]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["n_butane_radical_cation"]}, {"state_id": "state_products", "species_ids": ["ethyl_radical", "ethyl_cation"]}], "steps": [{"step_id": "step_sigma_cleavage", "from_state": "state_precursor", "to_state": "state_products", "step_class": "sigma_dissociation", "semantics": "net_fragmentation", "electron_moves": [{"source": {"type": "bond", "atom_maps": [2, 3]}, "target": {"type": "external", "atom_maps": []}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [2, 3]}, "target": {"type": "atom", "atom_maps": [2]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "evidence_step_8_37a", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_sigma_cleavage", "support_type": "textbook_proposed", "locator": {"page": 169, "equation": "8.37", "figure": null, "panel": null, "section": "8.6 Sigma-bond dissociation (sigma)"}, "confidence": 0.8, "curator_note": "Equation 8.37, line 1 of 3: 'OE+.  AB(+)CD  --sigma-->  AB. + CD+  or  AB+ + .CD'. Generic sigma-bond dissociation of an odd-electron (OE+.) molecular ion: the central C-C sigma bond, drawn carrying the '+' (a 2-centre/1-electron loose sigma bond in the radical cation, per the text 'On dissociation of such a weakened C-C sigma-bond, one of the carbon atoms will bear the charge, and the other will bear the radical site'), homolyses. Either fragment can retain the charge (the 'or': AB.+CD+ vs AB++.CD), the balance set by bond polarization / Stevenson's Rule. ARC COUNT (convention D): the book draws 0 curved arrows/fishhooks - equation 8.37 is a net reactant->products scheme written with a straight sigma-labelled reaction arrow, not an arrow-pushing diagram. The 2 encoded electron_moves are IMPLICIT (reconstructed for electron balance, not drawn): move <1> routes one electron of the cleaving C2-C3 sigma bond OUT of the system (external = the EI ionization hole, since the drawn skeleton is neutral and the +/. live in the fields), move <2> routes the other C2-C3 electron onto C2 to make the ethyl radical; C3 is left electron-deficient -> ethyl cation. This is the delocalized-bond localization convention used for pure-hydrocarbon sigma dissociation in IMS4-EQ4.3. INSTANTIATION (convention F): the scheme is generic (A,B,C,D undefined; NO m/z or intensity printed). Instantiated as the n-BUTANE radical cation cleaving the central C2-C3 bond - the very bond the text singles out ('in the butane cation the lowest-energy structure has a very long C(2)-C(3) bond, 2.02 A'). Butane's C2-C3 cleavage is SYMMETRIC, so both polarizations of the 'or' give the same product pair (ethyl cation + ethyl radical); this single record therefore covers both branches. Curator-computed detected ion m/z 29.0386 (C2H5+); this derives from the chosen instantiation, not from the page. LOCALIZATION (convention B): charge/radical are carried in the species fields against a neutral butane skeleton rather than drawn on a specific atom, because the book localizes the '+' on the sigma BOND (a 2c-1e species) which has no valence-correct single-atom SMILES form."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "70 eV EI", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 58.0777, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_c2h5", "species_id": "ethyl_cation", "step_id": "step_sigma_cleavage", "observed_mz": 29.0386, "hydrogen_shift": 0, "isotope_offset": 0, "status": "inferred", "confidence": 0.6}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-26T00:00:00Z", "modified_at": "2026-07-26T00:00:00Z"}}
